US04996230
H. Preparation of 2-[3-(decyloxy)-4-(3-hydroxypropyl)phenoxy]benzoic acid ethyl ester
A mixture of 600 mg of 2-[3-hydroxy-4-(3-hydroxypropyl)phenoxy]benzoic acid ethyl ester, 0.4 ml of decyl iodide, and 0.26 g of potassium carbonate in 50 ml of methyl ethyl ketone was stirred at reflux overnight. After cooling to room temperature, the mixture was filtered and the filtrate concentrated in vacuo. Purification of the residue by column chromatography over silica gel eluting with 20% ethyl acetate in hexane provided 510 mg of the desired subtitled intermediate as an oil, MS, IR, NMR.

reactant | 2-[3-hydroxy-4-(3-hydroxypropyl)phenoxy]benzoic acid ethyl ester | 600 mg | C(C)OC(C1=C(C=CC=C1)OC1=CC(=C(C=C1)CCCO)O)=O | C18H20O5
reactant | decyl iodide | 0.4 ml | C(CCCCCCCCC)I | C10H21I
reactant | potassium carbonate | 0.26 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
product | 2-[3-(decyloxy)-4-(3-hydroxypropyl)phenoxy]benzoic acid ethyl ester | 510 mg | C(C)OC(C1=C(C=CC=C1)OC1=CC(=C(C=C1)CCCO)OCCCCCCCCCC)=O | C28H40O5
